US06433211B1
A mixture containing p-cyanobenzylamine (13.2 g), water (50 g), and ruthenium trichloride (0.2 g) was stirred, and a 14 wt. % aqueous solution (200 g) of sodium hypochlorite was added dropwise thereto at room temperature over two hours. The reaction mixture was further stirred for one hour. Subsequently, water (100 g) and urea (4 g) were added to the mixture, and the resultant mixture was further stirred for 20 minutes. The pH of the mixture was adjusted to four through addition of 98 wt. % sulfuric acid. Precipitated crystals were collected through filtration, washed with water, and dried, to thereby obtain 10.4 g of p-cyanobenzoic acid (yield 76%, based on p-cyanobenzylamine). High performance liquid chromatographic analysis revealed that the p-cyanobenzoic acid obtained had a purity of 95%.

reactant | p-cyanobenzylamine | 13.2 g | C(#N)C1=CC=C(CN)C=C1 | C8H8N2
reactant | sodium hypochlorite | Cl[O-].[Na+]
reactant | urea | 4 g | NC(=O)N | CH4N2O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | water | 100 g | O | H2O
reactant | water | 50 g | O | H2O
catalyst | ruthenium trichloride | 0.2 g | [Ru](Cl)(Cl)Cl
product | p-cyanobenzoic acid | 10.4 g, yield 76% | C(#N)C1=CC=C(C(=O)O)C=C1 | C8H5NO2
